US04556658
A mixture of 3.5 g (0.01 mol) of 1-cyclopropyl-6,8-difluoro- 7-(piperazin-1-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 3.4 g (0.02 mol) of isopropyl iodide and 2.1 (0.02 mol) of triethylamine in 50 ml of dimethylformamide is heated to 80° C. in the course of 6 hours. After the solvent has been evaporated off, the residue is stirred with 30 ml of water and is then filtered off under suction, washed with water and recrystallised from methanol. 2.3 g of 1-cyclopropyl-6,8-difluoro-7-(4-isopropylpiperazin-1-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydriodide having a decomposition temperature of 306°-308° C. are obtained.

reactant | 1-cyclopropyl-6,8-difluoro- 7-(piperazin-1-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.01 mol, 3.5 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCNCC1)F)=O)C(=O)O | C17H17F2N3O3
reactant | isopropyl iodide | 0.02 mol, 3.4 g | C(C)(C)I | C3H7I
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-cyclopropyl-6,8-difluoro-7-(4-isopropylpiperazin-1-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydriodide | 2.3 g | I.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCN(CC1)C(C)C)F)=O)C(=O)O | InChI=1S/C20H23F2N3O3.HI/c1-11(2)23-5-7-24(8-6-23)18-15(21)9-13-17(16(18)22)25(12-3-4-12)10-14(19(13)26)20(27)28;/h9-12H,3-8H2,1-2H3,(H,27,28);1H
